US08957062B2
Step E: tert-butyl [6-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)-5-methylpyridin-3-yl]acetate
The mixture of tert-butyl (6-{2-[(1S,2R)-2-(cyanopiperidin-4-yl)cyclopropyl]ethoxy}-5-methylpyridin-3-yl)acetate (650 mg, 1.63 mmol), N-hydroxy-2-methylpropanimidamide (1.38 eq., 230 mg) and zinc chloride (1.58 eq., 350 mg) in 5 mL of DMF was stirred 2 hrs at 80° C., then PTSA (1.0 eq, 280 mg) was added and stirred for additional 2 hrs at 85° C. The mixture was cooled to room temperature and then quenched by said aq soln of NaHCO3. The mixture was extracted with EtOAc (2×75 mL), and the combined organics were then washed with brine, dried over sodium sulfate, filtered and the filtrate concentrated in vacuo. The residue was purified by ISCO column (40 g silica gel) using ethyl acetate in hexane (0-40% EA, 400 ml, and 40-100% EA 200 ml) to give the product. LCMS (ESI) m/z 485 [M+H]+.

reactant | tert-butyl (6-{2-[(1S,2R)-2-(cyanopiperidin-4-yl)cyclopropyl]ethoxy}-5-methylpyridin-3-yl)acetate | 1.63 mmol, 650 mg | C(#N)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=C(C=C(C=N1)CC(=O)OC(C)(C)C)C | C23H33N3O3
reactant | N-hydroxy-2-methylpropanimidamide | 230 mg, 1.38 eq. | ONC(C(C)C)=N | C4H10N2O
reactant | PTSA | 280 mg, 1.0 eq | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | zinc chloride | 350 mg, 1.58 eq. | [Cl-].[Zn+2].[Cl-]
product | tert-butyl [6-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)-5-methylpyridin-3-yl]acetate | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=C(C=C(C=N1)CC(=O)OC(C)(C)C)C | C27H40N4O4
